US08212041B2
7-Methoxy-N-((6-(3,4,5-trifluorophenyl)imidazo[1,2-b]pyridazin-3-yl)methyl)-1,5-naphthyridin-4-amine
(6-(3,4,5-Trifluorophenyl)imidazo[1,2-b]pyridazin-3-yl)methanamine. To a suspension of (6-(3,4,5-trifluorophenyl)imidazo[1,2-b]pyridazin-3-yl)methanol (0.442 g, 1.6 mmol) in CH2Cl2 (5 mL) was added Mesyl-Cl (0.37 ml, 4.7 mmol) and triethylamine (0.66 ml, 4.7 mmol)-slight exotherm, place flask in water bath- and the mixture stirred at rt 1 h. The mixture was concentrated in vacuo (without heating the flask) and the residue dissolved in DMF (2 mL) and azidosodium (0.23 g, 3.5 mmol) was added in one portion. After 45 minutes, additional azidosodium (0.40 g, 6.0 mmol) was added and the mixture stirred 1 h longer. The mixture was diluted with EtOAc, washed with water, brine, (back extract aq layer) and dry organic layer over Na2SO4, filter and evaporate. The azide intermediate was dissolved in THF (4 mL) and trimethylphosphine 1M in THF (2.4 ml, 2.4 mmol) was added. The reaction mixture was stir at rt until the bubbling stops, plus an additional 2 minutes, then water (1 mL) was added. The mixture was diluted with EtOAc, washed with NaHCO3 solution, sat. NaHCO3, (back extract aq layer), then dry organic layer over Na2SO4, filter and evaporate. The residue was purified via flash chromatography using al % NH4OH in MeOH in CH2Cl2 gradient to afford the title compound as a tan solid.

reactant | (6-(3,4,5-Trifluorophenyl)imidazo[1,2-b]pyridazin-3-yl)methanamine | FC=1C=C(C=C(C1F)F)C=1C=CC=2N(N1)C(=CN2)CN | C13H9F3N4
reactant | (6-(3,4,5-trifluorophenyl)imidazo[1,2-b]pyridazin-3-yl)methanol | 1.6 mmol, 0.442 g | FC=1C=C(C=C(C1F)F)C=1C=CC=2N(N1)C(=CN2)CO | C13H8F3N3O
reactant | triethylamine | 4.7 mmol, 0.66 ml | C(C)N(CC)CC | C6H15N
reactant | azidosodium | 3.5 mmol, 0.23 g | N(=[N+]=[N-])[Na]
reactant | azidosodium | 6.0 mmol, 0.40 g | N(=[N+]=[N-])[Na]
reactant | trimethylphosphine | 1M | CP(C)C | C3H9P
reactant | THF | 2.4 mmol, 2.4 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 1 mL | O | H2O
product | 7-Methoxy-N-((6-(3,4,5-trifluorophenyl)imidazo[1,2-b]pyridazin-3-yl)methyl)-1,5-naphthyridin-4-amine | COC1=CN=C2C(=CC=NC2=C1)NCC1=CN=C2N1N=C(C=C2)C2=CC(=C(C(=C2)F)F)F | C22H15F3N6O
